US08372842B2
TFA (0.60 mL, 7.83 mmol) was added to a solution of tert-butyl 4-(5-cyclobutyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.14 g, 0.39 mmol) in DCM (10 mL) and stirred at room temperature for 1 hour. The solvent was removed. The resulting residue was dissolved in DCM (0.5 mL), and 2N HCl in ether (2 mL) was added. The solid formed was collected by filtration to give 5-cyclobutyl-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridine hydrochloride (0.125 g, 97%).

reactant | TFA | 7.83 mmol, 0.60 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-(5-cyclobutyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.39 mmol, 0.14 g | C1(CCC1)C=1C(=C2C(=NC1)NN=C2)N2CCN(CC2)C(=O)OC(C)(C)C | C19H27N5O2
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-cyclobutyl-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridine hydrochloride | 0.125 g, 97% | Cl.C1(CCC1)C=1C(=C2C(=NC1)NN=C2)N2CCNCC2 | InChI=1S/C14H19N5.ClH/c1-2-10(3-1)11-8-16-14-12(9-17-18-14)13(11)19-6-4-15-5-7-19;/h8-10,15H,1-7H2,(H,16,17,18);1H
